US03993657
A solution of 38 g (0.24 mole) of bromine in 100 ml of CCl4 was added dropwise over 50 min to a stirred, refluxing mixture of 55 g (0.24 mole) of methyl 5-(p-nitrophenyl)-2-furyl ketone and 1200 ml of CCl4. After the addition was complete, the reaction mixture was heated under reflux for 3/4 hr and allowed to stand at room temperature overnight. The yellow solid was collected by filtration to give 69 g (93%) of bromomethyl 5-(p-nitrophenyl)-2-furyl ketone, m.p. 153°-162°.

reactant | bromine | 0.24 mole, 38 g | BrBr | Br2
reactant | methyl 5-(p-nitrophenyl)-2-furyl ketone | 0.24 mole, 55 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)C | C12H9NO4
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 1200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | bromomethyl 5-(p-nitrophenyl)-2-furyl ketone | 69 g, 93% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)CBr | C12H8BrNO4
